US04732895
α-[5-Methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-4-phenyl-1-piperazineethanol
To a suspension of 1 g of 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-2-(4-phenyl-1-piperazinyl)ethanone in 5 ml of methanol, cooled in an ice-water bath, was added 0.2 g of sodium borohydride. After gas evolution ceased, this mixture was stirred in the bath for 45 minutes, with the addition of 2 ml of methanol after 5 minutes, and then at room temperature for one hour. A 0.1 g portion of sodium borohydride was added, the mixture was stirred in the ice-water bath for 30 minutes, then at room temperature for one hour. The addition of 0.1 g of sodium borohydride and the reaction conditions were repeated twice more, then the mixture was poured into ice-water. The mixture was adjusted to pH 7-8 with glacial acetic acid. The gummy solid was collected, washed with water and then triturated with 30 ml of ether for 15 minutes. The ether was decanted and the solid triturated with 10 ml of fresh ether. The solid was collected, washed with ether and dried in vacuo, giving 0.6 g of the desired product as a pale yellow solid, mp 180°-184° C. (dec.).

reactant | 1-[5-methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-2-(4-phenyl-1-piperazinyl)ethanone | 1 g | CC1=C(N=C(N1)C=1C=NC=CC1)C(CN1CCN(CC1)C1=CC=CC=C1)=O | C21H23N5O
reactant | sodium borohydride | 0.2 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | α-[5-Methyl-2-(3-pyridinyl)-1H-imidazol-4-yl]-4-phenyl-1-piperazineethanol | 0.6 g | CC1=C(N=C(N1)C=1C=NC=CC1)C(CN1CCN(CC1)C1=CC=CC=C1)O | C21H25N5O
